US05834434
N-BOC-S-trityl-cysteine-4-amino-2-phenylbenzoyl methionine methyl ester
N-BOC-S-trityl-cysteine (0.31 g, 0.66 mmol) in dry THF (11 ml) was reacted with Et3N (0.10 ml), IBCF (0.09 ml, 0.73 mmol) at -10° C. as described for N-BOC-S-trityl-cysteine-4- aminobenzoyl methionine methyl ester in Example 1. 4-amino-2-phenylbenzoyl methionine methyl ester (0.24 g, 0.66 mmol) in dry CH2Cl2 (3.5 ml) was added and the mixture was allowed to stir overnight under nitrogen. It was worked up as described as further described for N-BOC-S-trityl-cysteine-4- aminobenzoyl methionine methyl ester in Example 1, and after drying the crude material was chromatographed on silica gel using a 2:1 mixture of hexanes and ethyl acetate to give 84.70 mg (16.0%) of pure product. mp 100°-103° C.; 1H NMR (CDCl3) 1.41 (9 H,s), 1.61-1.78 (1 H, m), 1.84-1.95 (1 H, m), 2.00 (3 H, s), 2.05 (2 H, t, J=7.6 Hz), 2.63 (1 H, dd, J=12.7 Hz, 6.9 Hz), 2.72 (1 H, dd, J=12.7 Hz, 5.51 Hz), 3.64 (3 H, s), 4.02 (1 H, br s), 4.58-4.63 (1 H, m), 4.90 (1 H, d, J=7.4 Hz), 6.10 (1 H, d, J=6.6 Hz), 7.18-7.30 (10 H, m), 7.37-7.44 (11 H, m), 7.50 (1 H, s), 7.58 (1 H, d, J=8.2 Hz), 8.69 (1 H, s); 13C NMR (CDCl3) 15.21, 28.20, 29.38, 31.24, 33.00, 51.77, 52.35, 54.15, 67.30, 80.85, 118.18, 120.86, 126.88, 127.90, 128.03, 128.56, 128.66, 129.44, 129.79, 130.14, 156.00, 168.52, 169.11, 171.85.

reactant | N-BOC-S-trityl-cysteine | 0.66 mmol, 0.31 g | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C27H29NO4S
reactant | Et3N | 0.10 ml | CCN(CC)CC | C6H15N
reactant | N-BOC-S-trityl-cysteine 4- aminobenzoyl methionine methyl ester | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCSC)=O
reactant | 4-amino-2-phenylbenzoyl methionine methyl ester | 0.66 mmol, 0.24 g | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | C19H22N2O3S
solvent | THF | 11 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 3.5 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-S-trityl-cysteine 4-amino-2-phenylbenzoyl methionine methyl ester | 84.70 mg, 16.0% | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | InChI=1S/C27H29NO4S.C19H22N2O3S/c1-26(2,3)32-25(31)28-23(24(29)30)19-33-27(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-24-19(23)17(10-11-25-2)21-18(22)15-9-8-14(20)12-16(15)13-6-4-3-5-7-13/h4-18,23H,19H2,1-3H3,(H,28,31)(H,29,30);3-9,12,17H,10-11,20H2,1-2H3,(H,21,22)/t23-;17-/m00/s1
